US03976635
A mixture of sodium salt of ethyl 2-hydroxyimino-2-cyanoacetate (16.4 g), water (100 ml) and acetone (15 ml) is stirred at 0°C, and methyl chloroformate (9.4 g) is dropwise added thereto. The resulting mixture is adjusted to pH 7 to 8 with the addition of an aqueous solution of sodium hydrogencarbonate and stirred for 5 hours. The reaction mixture is extracted with ether, and the ether layer is washed with water, dried and concentrated. The residue is recrystallized from a benzene - n-hexane mixture to give ethyl 2-methoxycarbonyloxyimino-2-cyanoacetate (8.4 g) as crystals melting at 69° to 71°C.

reactant | sodium | [Na] | Na
reactant | ethyl 2-hydroxyimino-2-cyanoacetate | 16.4 g | ON=C(C(=O)OCC)C#N | C5H6N2O3
reactant | methyl chloroformate | 9.4 g | ClC(=O)OC | C2H3ClO2
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | acetone | 15 ml | CC(=O)C | C3H6O
solvent | water | 100 ml | O | H2O
product | ethyl 2-methoxycarbonyloxyimino-2-cyanoacetate | 8.4 g | COC(=O)ON=C(C(=O)OCC)C#N | C7H8N2O5
